US04782079
A mixture of 2-(2,2-dibromoethenyl)-5-(4-methoxymethoxyphenyl)thiophene (8.8 g, 0.02 mole), prepared by the method of Example 6, ethanol (10 mL), and two drops of concentrated hydrochloric acid in tetrahydrofuran (50 mL) was stirred at room temperature for approximately 18 hours. Gaseous hydrogen chloride was bubbled into the mixture for several seconds, after which 10 mL of methanol was added. The resultant mixture was stirred at room temperature for two hours. This mixture was poured into an aqueous saturated ammonium chloride solution and extracted with diethyl ether. The ether extract was washed with an aqueous saturated ammonium chloride solution. The washed extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure, leaving a solid residue. This residue was dissolved in diethyl ether, and approximately 50 g of silica gel was added to the solution. The mixture was stirred briefly and filtered. The filtrate was evaporated under reduced pressure, yielding 7.8 g of 2-(2,2-dibromoethenyl)-5-(4-hydroxyphenyl)thiophene as a solid (mp 99°-101° C.).

reactant | 2-(2,2-dibromoethenyl)-5-(4-methoxymethoxyphenyl)thiophene | 0.02 mole, 8.8 g | BrC(=CC=1SC(=CC1)C1=CC=C(C=C1)OCOC)Br | C14H12Br2O2S
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | two drops | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2,2-dibromoethenyl)-5-(4-hydroxyphenyl)thiophene | 7.8 g | BrC(=CC=1SC(=CC1)C1=CC=C(C=C1)O)Br | C12H8Br2OS
